US05962436
Step C Preparation of 1-(5,6,7,8-tetrahydro-2-naphthalenyl)ethanone oxime
To a solution of 6-acetyltetralin (5.0 g, 29 mmol) in methanol (30 mL) under a nitrogen atmosphere was added hydroxylamine hydrochloride (2.18 g, 32 mmol) and sodium acetate (2.59 g, 32 mmol) and the resulting mixture was stirred overnight. The reaction mixture was concentrated under reduced pressure and the residue was taken up in diethyl ether and washed with water and then with saturated sodium chloride solution. The organic phase was dried (MgSO4) and concentrated under reduced pressure to afford an oil which solidified. The solid was pulverized and rinsed with hexanes to afford the title compound of Step C (3.85 g) as an off-white solid. 1H NMR (CDCl3): δ 9.1 (br s,1H), 7.33 (m,2H), 7.07 (d,1H), 2.78 (m,4H), 2.27 (s,3H), 1.79 (m,4H).

reactant | 6-acetyltetralin | 29 mmol, 5.0 g | C(C)(=O)C=1C=C2CCCCC2=CC1 | C12H14O
reactant | hydroxylamine hydrochloride | 32 mmol, 2.18 g | Cl.NO
reactant | sodium acetate | 32 mmol, 2.59 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 1-(5,6,7,8-tetrahydro-2-naphthalenyl)ethanone oxime | 3.85 g | C1=C(C=CC=2CCCCC12)C(C)=NO | C12H15NO
